US07989438B2
Step 5: methyl 7-{3-[4-(tert-butoxycarbonyl)piperazin-1-yl]-3-oxopropyl}-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
HATU (1.1 eq) was added to a stirred mixture of tert-butyl piperazine-1-carboxylate (1.1 eq), DIPEA (2.5 eq) and 3-[14-cyclohexyl-11-(methoxycarbonyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl]propanoic acid (0.03 M) in DMF under N2 at RT. The reaction was warmed at 50° C. for 10 min. The reaction was allowed to cool to RT before being partitioned between EtOAc and 1N HCl (aq). The organics were washed with 1N HCl (aq), sat. aq. NaHCO3, water and brine before being dried (Na2SO4), filtered and concentrated in vacuo. The material was taken on without further purification (88%). (ES+) m/z 630 (M+H)+; 652 (M+Na)+.

reactant | HATU | 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl piperazine-1-carboxylate | 1.1 eq | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | DIPEA | 2.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[14-cyclohexyl-11-(methoxycarbonyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl]propanoic acid | 0.03 M | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(COC3=C(C21)C=CC=C3)CCC(=O)O)C(=O)OC | C28H31NO5
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 7-{3-[4-(tert-butoxycarbonyl)piperazin-1-yl]-3-oxopropyl}-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CCC1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)=O | C37H47N3O6
